US09023847B2
21. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-thiophen-2-yl-ethyl)-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using thiophene-2-ethylamine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 369 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 12.00 (1H, br. s.) 10.44 (1H, s) 8.30 (1H, t, J=5.56 Hz) 8.06 (1H, d, J=6.25 Hz) 7.85 (1H, d, J=5.47 Hz) 7.37-7.43 (2H, m) 7.29 (1H, dd, J=5.08, 1.17 Hz) 6.89 (1H, dd, J=5.08, 3.32 Hz) 6.86 (1H, dd, J=3.32, 0.98 Hz) 6.78 (1H, d, J=6.44 Hz) 6.59 (1H, d, J=3.51 Hz) 3.42-3.49 (2H, m) 3.00 (2H, t, J=7.13 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | thiophene-2-ethylamine | S1C(=CC=C1)CCN | C6H9NS
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-thiophen-2-yl-ethyl)-amide | S1C(=CC=C1)CCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C18H16N4OS2
